US07939531B2
A mixture of 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (0.1 g, 0.354 mmol), commercially available 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]morpholine (0.206 g, 0.709 mmol), K2CO3 (0.147 g, 1.063 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.041 g, 35 micomol) in 3 mL of MeOH and 1 mL of DCM was degassed by bubbling argon through the mixture. It was then stirred at 110° C. for 25 minutes under microwave irradiation before being cooled to RT. And evaporated. The residue was adsorbed onto SiO2 and purified twice by SiO2 chromatography (hexanes/EtOAc 0-50% EtOAc, followed by DCM/MeOH 0-4% MeOH) to give 0.073 g of 2,2-Dimethyl-1-[2-(6-morpholin-4-yl-pyridin-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (56% yield).

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.354 mmol, 0.1 g | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]morpholine | 0.709 mmol, 0.206 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCOCC1)C | C15H23BN2O3
reactant | K2CO3 | 1.063 mmol, 0.147 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.041 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Dimethyl-1-[2-(6-morpholin-4-yl-pyridin-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.073 g, 56% yield | CC(C(=O)C1=CNC2=NC=C(N=C21)C=2C=NC(=CC2)N2CCOCC2)(C)C | C20H23N5O2
